US09085583B2
A mixture of methyl 3-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxylate (90 mg, 0.37 mmol), lithium hydroxide monohydrate (57.1 mg, 1.36 mmol), tetrahydrofuran (5 mL), methanol (1 mL) and water (1 mL) was stirred at 20° C. for 4 hours. The mixture was acidified to pH=1 with concentrated hydrochloric acid and then extracted with ethyl acetate (15 mL×3). The combined organic phase was dried by sodium sulfate, and then filtered. The filtrate was concentrated in vacuo to give 3-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxylic acid as a white solid (60 mg, 70%). 1H NMR (300 MHz, d6-DMSO): δ 12.24 (s, 1H), 7.82 (s, 1H), 7.36-7.17 (m, 5H), 5.67 (q, J=7.2 Hz, 1H), 2.43 (s, 3H), 1.79 (d, J=6.9 Hz, 3H).

reactant | methyl 3-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxylate | 0.37 mmol, 90 mg | CC1=NN(C=C1C(=O)OC)C(C)C1=CC=CC=C1 | C14H16N2O2
reactant | lithium hydroxide monohydrate | 1.36 mmol, 57.1 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 3-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxylic acid | 60 mg, 70% | CC1=NN(C=C1C(=O)O)C(C)C1=CC=CC=C1 | C13H14N2O2
